US07223788B2
(R)-4-(4-Chlorophenyl)piperidin-1-carboxylic acid {4-[3-(methylpyrimidin-2-yl-amino)pyrrolidin-1-yl]-phenyl}amide
(R)-4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(3-methylaminopyrrolidin-1-yl)phenyl]amide (100 mg) was reacted with potassium carbonate (100 mg) and 2-bromopyrimidine (50 mg) in N-methylpyrrolidone (3 ml) at 100° C. for 4 hours. The reaction solution was then partitioned between ethyl acetate and water. The organic phase was dried over magnesium sulfate and concentrated. The crude product was purified by preparative HPLC. This resulted in the product with the molecular weight of 491.04 (C27H31ClN6O); MS (ESI): 491 (M+H+).

reactant | (R)-4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(3-methylaminopyrrolidin-1-yl)phenyl]amide | 100 mg | CN[C@H]1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl | C23H29ClN4O
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopyrimidine | 50 mg | BrC1=NC=CC=N1 | C4H3BrN2
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | (R)-4-(4-Chlorophenyl)piperidin-1-carboxylic acid {4-[3-(methylpyrimidin-2-yl-amino)pyrrolidin-1-yl]-phenyl}amide | CN([C@H]1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C1=NC=CC=N1 | C27H31ClN6O
